US08871796B2
(1-benzotriazol-1-yloxy)[tris(dimethylamino)]phosphonium hexafluorophosphate (161 mg, 0.36 mmol, 1.2 equiv) and diisopropylethylamine (117 mg, 0.91 mmol, 3 equiv) were added to a stirring solution of 4-({1-ethyl-3-[3-(2-{[(2,2,2-trifluoroethyl)sulfonyl]amino}propan-2-yl)phenyl]-1H-pyrazol-5-yl}oxy)benzoic acid (155 mg, 0.30 mmol, 1 equiv) in DMF (3 mL). Acetohydrazide (45 mg, 0.61 mmol, 2 equiv) was then added and the mixture was stirred at 22° C. for 16 hours. The mixture was purified directly by reversed phase HPLC (0-95% acetonitrile:water with 0.025% TFA). Pure fractions were identified, combined, and lyophilized to give N-{2-[3-(5-{4-[(2-acetylhydrazinyl)carbonyl]phenoxy}-1-ethyl-1H-pyrazol-3-yl)phenyl]propan-2-yl}-2,2,2-trifluoroethanesulfonamide (35% yield). This material was stirred in THF (1 mL) at 22° C. and 3,3,3-triethyl-1-(methoxycarbonyl)diazathian-3-ium-1-ide 2,2-dioxide (38 mg, 0.16 mmol, 1.5 equiv) was added. The resulting mixture was stirred at 22° C. for 16 hours then purified directly by reversed phase HPLC (0-95% acetonitrile:water with 0.025% TFA). Pure fractions were identified, combined, and lyophilized to give the title compound (21% yield). Calc'd (M+1)+: 550.2. Found: 550.1.

reactant | diisopropylethylamine | 0.91 mmol, 117 mg, 3 equiv | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-({1-ethyl-3-[3-(2-{[(2,2,2-trifluoroethyl)sulfonyl]amino}propan-2-yl)phenyl]-1H-pyrazol-5-yl}oxy)benzoic acid | 0.30 mmol, 155 mg, 1 equiv | C(C)N1N=C(C=C1OC1=CC=C(C(=O)O)C=C1)C1=CC(=CC=C1)C(C)(C)NS(=O)(=O)CC(F)(F)F | C23H24F3N3O5S
reactant | Acetohydrazide | 0.61 mmol, 45 mg, 2 equiv | C(C)(=O)NN | C2H6N2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-{2-[3-(5-{4-[(2-acetylhydrazinyl)carbonyl]phenoxy}-1-ethyl-1H-pyrazol-3-yl)phenyl]propan-2-yl}-2,2,2-trifluoroethanesulfonamide | 35% yield | C(C)(=O)NNC(=O)C1=CC=C(OC2=CC(=NN2CC)C=2C=C(C=CC2)C(C)(C)NS(=O)(=O)CC(F)(F)F)C=C1 | C25H28F3N5O5S
